US07220744B2
c) 1-[5-(Butane-1-sulfonyl)-thiazol-2-yl]-piperazine hydrochloride
Prepared in analogy to example 4 (d) from 4-[5-(butane-1-sulfonyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester and hydrogen chloride solution. The crude material was purified by recrystallisation from ether to afford the title compound as an off-white crystalline solid (yield 92%). MS (m/e): 290.0 (M+H+, 100%).

reactant | 4-[5-(butane-1-sulfonyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)S(=O)(=O)CCCC | C16H27N3O4S2
reactant | hydrogen chloride | Cl | ClH
product | 1-[5-(Butane-1-sulfonyl)-thiazol-2-yl]-piperazine hydrochloride | yield 92% | Cl.C(CCC)S(=O)(=O)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C11H19N3O2S2.ClH/c1-2-3-8-18(15,16)10-9-13-11(17-10)14-6-4-12-5-7-14;/h9,12H,2-8H2,1H3;1H
